US04927831
Step (k) Preparation of 2-[(4-Bromo-2-fluorophenyl)methyl]-1,2,3,4-tetrahydro-1,3-dioxo-4-isoquinolinecarboxylic Acid Menthyl Ester
To a cold (-78° C.) solution of 2-[(4-bromo-2-fluorophenyl)methyl]-1,3(2H, 3H)-isoquinolinedione (9.0 g, 25.86 mmol) in anhydrous THF (120 mL) was added lithium bis(trimethylsilyl)amide (1.0M solution in THF, 56.91 mL, 56.91 mmol), dropwise over a 10 minute period. After stirring for 3 hours, (-)menthyl chloroformate (8.48 mL, 38.79 mmol) was added and the reaction was allowed to warm up to room temperature. The mixture during that period turned a dark color. It was stirred an additional 30 minutes and quenched with H2O. The dark solution was poured into H2O, acidified with HCl (2N) and extracted with EtOAc. The organic extracts were dried over MgSO4. Evaporation and purification by flash chromatography on acid-washed silica gel (5% H3PO4 in MeOH) gave a clear oil (10.2 g).

reactant | 2-[(4-bromo-2-fluorophenyl)methyl]-1,3(2H, 3H)-isoquinolinedione | 25.86 mmol, 9.0 g | BrC1=CC(=C(C=C1)CN1C(C2=CC=CC=C2CC1=O)=O)F | C16H11BrFNO2
reactant | lithium bis(trimethylsilyl)amide | 56.91 mmol, 1.0M, 56.91 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | (-)menthyl chloroformate | 38.79 mmol, 8.48 mL | ClC(=O)OC1CC(CCC1C(C)C)C | C11H19ClO2
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | 2-[(4-Bromo-2-fluorophenyl)methyl]-1,2,3,4-tetrahydro-1,3-dioxo-4-isoquinolinecarboxylic Acid Menthyl Ester | 10.2 g | C1(CC(C(CC1)C(C)C)OC(=O)C1C(N(C(C2=CC=CC=C12)=O)CC1=C(C=C(C=C1)Br)F)=O)C | C27H29BrFNO4
